Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Hypotension, weakness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year old man with a history of ___, BPH, 
recurrent UTI's (urosepsis on ___ and Type A aortic arch 
repair (___) who is coming from ___ due to hypotension, 
lethargy and dysuria.

The patient arrived to ED from ___ where the patient went for 
routine urology consult and was found to be hypotensive (SBP's 
60's). The patient was also lethargic.

Mr. ___ has been feeling very weak for the past ___ weeks. He has 
not been able to walk from the past week. He has a history of 
recurrent urinary tract infections (his last on ___ - E. coli 
bacteremia). Antibiotic treatment needs to be verified. He notes 
increasing weakness and dysuria over the past ___ weeks. 
Normally, he can ambulate around his house just fine, but now he 
cannot even get out of bed. He has fallen a few times because he 
feels unstable. He states that he has been drinking less water 
lately because he doesn't want to go to the bathroom because 
it's painful. The patient denies chest pain.

Of note, the patient's thoughts are somewhat disorganized. It is 
difficult to obtain a complete and detailed history.

In the ED, initial VS were T 97.7, HR 76, BP 98/63, RR 20, O2 
98% RA 
Exam notable for "lethargic." 
Labs showed WBC 7.2, H/H 9.9/32.1, Plt=182, INR=1.4, BUN=30, 
Cr=1.5, chemistry otherwise unremarkable.
Baseline: unknown

U/A with: Leuk Lg, Bld Lg, Nitr Neg,RBC >182, WBC >182, Bact 
Few, SpecGr 1.020, pH 6.0, Urobil Neg, Bili Neg, Prot 100, Glu 
Neg, Ket Neg, Yeast None, Epi 1  

Imaging showed:
CXR - The patient is status post sternotomy. Sternotomy wires 
are well aligned. Surgical clips overlie the mediastinum and 
right upper lung field. Allowing for AP projection, the heart is 
mildly enlarged. Lung volumes are mildly decreased, and 
atelectasis is noted at the left lung base. There is no lobar 
consolidation, pneumothorax, or pulmonary edema. Mild blunting 
of the left costophrenic angle may be secondary to scarring, 
atelectasis, or trace pleural effusion. 
Mild cardiomegaly, low lung volumes, and left lower lobe 
atelectasis. 

Received: NS 500 mL, Carbidopa-Levodopa (___) 2.5 TAB, 
CeftriaXONE 1gm.
    
Decision was made to admit to medicine for further management.  

On arrival to the floor, patient reports mild dysuria, fatigue 
and weakness. 
 
Past Medical History:
- Type A aortic dissection s/p aortic arch repair ___
- Urosepsis ___ c/c E. coli bacteremia, recurrent UTIs
- Nephrolithiasis s/p ureteral stent
- ___ Disease
- BPH (uncertain)
- Urinary incontinence
 
Social History:
___
Family History:
Father,d.___; Deceased - old age 
Mother,d.___; Deceased - hip fracture, wouldn't get out of bed 
after 
Brother,d.___; Deceased - traumatic work related accident 
Brother,___ - healthy
 
Physical Exam:
========================
ADMISSION PHYSICAL EXAM:
========================
VS: T 97.9 | HR 74 | BP 124/85 | RR 18 | O2 99% 
GENERAL: Elderly man, somewhat disheveled, NAD. Poor, rambling 
historian with tangential responses to questions. A+O x3.
HEENT: AT/NC, EOMI, PERRL, 5-6mm. Anicteric sclera, pink 
conjunctiva. Mildly dry mucous membranes, edenturous, dentures 
left at ___.  
NECK: Nontender supple neck.   
CARDIAC: RRR, S1/S2. Well-healed surgical scar over sternum. 
LUNG: CTAB, no wheezes, rales, rhonchi.
ABDOMEN: Nondistended, +BS. Nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly. No suprapubic 
tenderness. No flank pain. Scar from aortic arch repair is 
healing well.  
GU: Foley in place. Wearing adult diaper.
EXTREMITIES: no cyanosis, clubbing or edema.
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact. Tangential thought process requiring 
multiple redirection. Perseverative. ___ second speech latency. 
Slow but purposeful movements. ___ Hz resting tremor most 
prominent in RUE. Moving all extremities with purpose. Can count 
backwards from 10, ___ immediate ___ delayed recall (2 
minutes) with ___ prompted delayed recall. 
SKIN: Warm and well perfused, no rashes. Stage 1 pressure ulcers 
on back. 

========================
DISCHARGE PHYSICAL EXAM:
========================
VS : Tm/Tc 98.7 | HR 68-71 | BP 119/79 | RR 18 | 02 96% RA  
General: Elderly man in NAD. A+O x3, perseverative.
HEENT: MMM, EOMI. PERRL. Edentulous.   
Neck: Supple, full ROM.  
CV: RRR, No m/r/g.  
Lungs: CTAB, breathing comfortably. 
Abdomen: Soft, nontender, nondistended. No suprapubic 
tenderness. No HSM appreciated.  
GU: Foley in place. Draining cloudy yellow urine with sediment 
but no hematuria. Some leakage of urine at meatus.
Ext: Warm and well perfused. 1+ DP pulses. No edema.   
Neuro: CN II-XII intact b/L. Mild Parkinsonian hypokinesis. 
Otherwise moving all extremities equally. 
 
Pertinent Results:
===============
ADMISSION LABS:
===============
___ 02:00PM BLOOD WBC-7.2 RBC-3.50* Hgb-9.9* Hct-32.1* 
MCV-92 MCH-28.3 MCHC-30.8* RDW-14.2 RDWSD-47.7* Plt ___
___ 02:00PM BLOOD Neuts-68.0 Lymphs-18.0* Monos-10.3 
Eos-2.6 Baso-0.4 Im ___ AbsNeut-4.88 AbsLymp-1.29 
AbsMono-0.74 AbsEos-0.19 AbsBaso-0.03
___ 02:00PM BLOOD ___ PTT-26.6 ___
___ 02:00PM BLOOD Glucose-102* UreaN-30* Creat-1.5* Na-139 
K-3.9 Cl-107 HCO3-24 AnGap-12
___ 02:00PM BLOOD Albumin-3.5 Calcium-9.9 Phos-2.7 Mg-2.3
___ 02:00PM BLOOD ALT-5 AST-13 AlkPhos-71 TotBili-0.4
___ 02:12PM BLOOD Lactate-1.5
___ 03:15PM URINE Color-Yellow Appear-Cloudy Sp ___
___ 03:15PM URINE Blood-LG Nitrite-NEG Protein-100 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-LG
___ 03:15PM URINE RBC->182* WBC->182* Bacteri-FEW 
Yeast-NONE Epi-1
___ 03:15PM URINE Mucous-OCC

================
DISCHARGE LABS:
================
___ 06:30AM BLOOD WBC-5.4 RBC-3.52* Hgb-10.1* Hct-31.3* 
MCV-89 MCH-28.7 MCHC-32.3 RDW-14.2 RDWSD-45.3 Plt ___
___ 06:25AM BLOOD ___ PTT-29.1 ___
___ 06:30AM BLOOD Glucose-88 UreaN-25* Creat-1.1 Na-139 
K-3.7 Cl-104 HCO3-24 AnGap-15
___ 06:30AM BLOOD Calcium-10.3 Phos-2.5* Mg-2.0

==============
MICROBIOLOGY:
==============
___ 2:45 pm BLOOD CULTURE (Pending): 

___ 3:15 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 ORGANISMS/ML.. 
         PRESUMPTIVE IDENTIFICATION. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------   <=2 S
AMPICILLIN/SULBACTAM--   <=2 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

===============
KEY IMAGING:
===============

___ CHEST XR:  Patchy and linear left basilar opacities 
favor atelectasis over infectious
pneumonia.  If clinical suspicion for pneumonia persists, 
short-term followup radiographs may be helpful.

___ RENAL U/S: 
1. No hydronephrosis.
2. Nonobstructing 8 mm stone in the lower pole of the right 
kidney.
3. Bilateral renal cysts.

 
Brief Hospital Course:
___ male with ___ Disease, recent aortic aneurysm 
repair, and recurrent UTIs in the setting of nephrolithiasis 
presented from ___ with hypotension and positive UA with UTI 
symptoms.

Patient's hypotension quickly resolved with a modest volume of 
IV fluids. He was never febrile and had no leukocytosis.

He was started on ceftriaxone and then transitioned to 
ciprofloxacin prior to discharge for a pansensitive E. coli UTI. 
He had symptomatic and clinical improvement with only a few dose 
of antibiotics.

UTI is most likely related to retained 8-mm stone in the lower 
pole of the right kidney. Patient also may have a ureteral stent 
in place; the records are not clear in this regard.

He is discharged back to rehab facility on a 14-day course of 
ciprofloxacin 500mg q.12H to be taken through ___. He is 
encouraged to follow up with urology as soon as possible for 
definitive treatment of his nephrolithiasis.

==============
ACTIVE ISSUES:
==============

# UTI in the setting of nephrolithiasis: Floridly positive U/A 
with dysuria and urine culture growing pansensitive E. coli. 
Blood cultures with no growth. Apparently patient has had 
multiple recurrences of UTI including urosepsis recently, with 
the initial illness in early ___. Most likely related to 
retained 8-mm renal stone in the setting of duplicated collected 
system. ___ be some contribution of chronic urinary retention in 
the setting of BPH. Prostatitis unlikely given no prostatic 
tenderness on rectal exam. Treated initially with ceftriaxone 
with excellent clinical improvement. Transitioned to oral 
ciprofloxacin 500mg q.12H prior to discharge for a total 14 day 
course. Strongly recommend patient follow up with urology as 
soon as possible for stone removal and removal of the stent if 
still in place. 

# Nephrolithiasis, duplicated collecting system: Patient 
initially presented to OSH in ___ with urosepsis found to be 
secondary to nephrolithiasis. Ureteral (double-J) stent was 
placed as temporizing measure; definitive therapy (removal of 
stone) was deferred for the treatment of Type A aortic aneurysm. 
Patient to follow up with urology at the ___ had been at 
outpatient urology appointment on ___ when he was sent to ED 
for UTI. Unclear if ureteral stent still in place. Renal 
ultrasound on ___ demonstrated no hydronephrosis, 8-mm right 
renal stone (nonobstructive). Tamsulosin was continued while 
inpatient. trospium was held as it is non-formulary.

# Hypotension: Resolved after small volume of IV fluid. Mostly 
like due to volume depletion given rapid correction with modest 
volumes of IV fluids. Presented with SBP's in the 90___ with ___ 
SIRS criteria. Patient stated that he had been voluntarily 
limiting fluid intake due to increased urinary frequency with 
dysuria.

# ___ vs. CKD: Apparent ___ with unknown baseline creatinine. 
Improved rapidly with fluid repletion and treatment of UTI. 
Creatinine=1.5 on admission, down to 1.1 on HD#2 after volume 
repletion and treatment of UTI.

# Coagulopathy: Improved. INR=1.4 at admission, down to 1.2 on 
HD#2. Unknown baseline. Not on Warfarin or anticoagulation per 
records. Consider nutritional deficit. LFTs reassuring, with 
borderline albumin.

================
CHRONIC ISSUES:
================

# ___ Disease: On Carbidoba-levidopa at home. Neuro exam 
consistent with mild to moderate hypokinesis. Has characteristic 
slow frequency tremor. Continued Carbidopa-Levodopa at home 
dose.

# Hx of Type A Aortic Aneurysm s/p repair: Repaired at ___ in 
___. No apparent complications. BP is within normal 
limits at admission and through hospitalization.

EMERGENCY CONTACT HCP: ___ (friend) ___ 
___ 

CODE STATUS: Full Code

===================
TRANSITIONAL ISSUES:
===================
[  ] Discharged on Ciprofloxacin 500 mg q.12H to be taken 
through ___. (first dose out of hospital dose should be 
evening of ___
[  ] Foley catheter was placed in the ED for urinary retention. 
Patient is discharged with the Foley in place.
[  ] Patient is encouraged to follow up with his urologists as 
soon as possible for removal/assessment of ureteral stent and 
definitive therapy for kidney stone.
[  ] There is potential for QTc prolongation with interaction of 
ciprofloxacin and home mirtazapine. QTc was checked on day of 
discharge and was normal at 399.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Carbidopa-Levodopa (___) 2.5 TAB PO TID 
2. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
3. Loratadine 10 mg PO DAILY 
4. Multi-Day (multivitamin) 1 tab oral DAILY 
5. Tamsulosin 0.4 mg PO DAILY 
6. Thiamine 100 mg PO DAILY 
7. trospium 20 mg oral BID 
8. Fish Oil (Omega 3) 1000 mg PO DAILY 
9. Rasagiline 1 mg PO DAILY 
10. Aspirin 325 mg PO DAILY 
11. Mirtazapine 7.5 mg PO QHS 
12. TraZODone 12.5 mg PO QHS:PRN insomnia 

 
Discharge Medications:
1. Aspirin 325 mg PO DAILY 
2. Carbidopa-Levodopa (___) 2.5 TAB PO TID 
3. Tamsulosin 0.4 mg PO DAILY 
4. Fish Oil (Omega 3) 1000 mg PO DAILY 
5. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
6. Loratadine 10 mg PO DAILY 
7. Mirtazapine 7.5 mg PO QHS 
8. Multi-Day (multivitamin) 1 tab oral DAILY 
9. trospium 20 mg oral BID 
10. Thiamine 100 mg PO DAILY 
11. Ciprofloxacin HCl 500 mg PO Q12H 
Take through ___ 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth every twelve 
(12) hours Disp #*19 Tablet Refills:*0
12. TraZODone 12.5 mg PO QHS:PRN insomnia 
13. Rasagiline 1 mg PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS: 
- Urinary tract infection 
- Nephrolithiasis 
 
SECONDARY DIAGNOSIS: 
- ___ Disease 

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted with a urinary tract infection. This infection 
is probably related to the kidney stone you have.

You are being treated with antibiotics and you are improving. 
You will need to take the antibiotics through ___.

It is very important that you follow up with your urologist to 
deal with the kidney stone so that you don't get any more 
infections.

Thank you for letting us participate in your care,
Your ___ team
 
Followup Instructions:
___